US06949648B2
3,4-Dimethyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline
A solution of o-bromoacetophenone (1.09 g, 5.5 mmol), 3-methyl-1-phenyl-1H-pyrazol-5-ylamine (0.87 g, 5.0 mmol), copper acetate (II) (91 mg, 0.5 mmol) and potassium carbonate (0.76 g, 5.5 mmol) in N,N-dimethylformamide (5 mL) was heated under reflux under an argon atmosphere for 1 hour. The solution was cooled to room temperature, and poured into water. The solution was made basic by the addition of a sodium bicarbonate solution, and the organic matter was extracted with ethyl acetate. The extract was washed with saturated brine and water, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue thus obtained was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to give the title compound (0.21 g, 15% yield).

reactant | o-bromoacetophenone | 5.5 mmol, 1.09 g | BrC1=C(C=CC=C1)C(C)=O | C8H7BrO
reactant | 3-methyl-1-phenyl-1H-pyrazol-5-ylamine | 5.0 mmol, 0.87 g | CC1=NN(C(=C1)N)C1=CC=CC=C1 | C10H11N3
reactant | potassium carbonate | 5.5 mmol, 0.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
catalyst | copper acetate | 0.5 mmol, 91 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | water | O | H2O
product | 3,4-Dimethyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline | 0.21 g, 15% yield | CC1=NN(C2=NC3=CC=CC=C3C(=C21)C)C2=NC=CC=C2 | C17H14N4
